US08404677B2
Synthesis of (S)-4-(phenoxyphenylamino)-2-(pyrrolidin-3-ylamino)pyrido[4,3-d]pyrimidin-5(6H)-one hydrochloride
Compound No. 125 was prepared as described in Example 1g by starting from 2-(methylthio)-4-(4-phenoxy phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one (87 mg, 0.23 mmol) and (S)-(−)-1-boc-3-amino pyrrolidine (129 mg, 0.69 mmol) and treating with 4 N HCl in dioxane continuing until the reaction yielded the title compound (54 mg, 52%). MS m/z: 415 (M+1)+.

reactant | 2-(methylthio)-4-(4-phenoxy phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one | 0.23 mmol, 87 mg | CSC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC=C(C=C2)OC2=CC=CC=C2 | C20H16N4O2S
reactant | (S)-(−)-1-boc-3-amino pyrrolidine | 0.69 mmol, 129 mg | C(=O)(OC(C)(C)C)N1C[C@H](CC1)N | C9H18N2O2
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
product | (S)-4-(phenoxyphenylamino)-2-(pyrrolidin-3-ylamino)pyrido[4,3-d]pyrimidin-5(6H)-one hydrochloride | 54 mg, 52% | Cl.O(C1=CC=CC=C1)N(C=1C2=C(N=C(N1)N[C@@H]1CNCC1)C=CNC2=O)C2=CC=CC=C2 | InChI=1S/C23H22N6O2.ClH/c30-22-20-19(12-14-25-22)27-23(26-16-11-13-24-15-16)28-21(20)29(17-7-3-1-4-8-17)31-18-9-5-2-6-10-18;/h1-10,12,14,16,24H,11,13,15H2,(H,25,30)(H,26,27,28);1H/t16-;/m0./s1
